US06734180B1
4-(5-methoxycarbonylindan-2-yl)amino-5-methylthieno[2,3-d]pyrimidine
Using 2-(tert-butoxycarbonylamino)-5-methoxycarbonylindan (60 mg, 0.21 mmol) synthesized in the above Preparation Example 3, 4N hydrochloric acid-dioxane (1.0 ml) and acetic acid (3.0 ml), and then ethanol (1 ml), triethylamine (88 μl, 0.63 mmol), and 4-chloro-5-methylthieno[2,3-d]pyrimidine (39 mg, 0.21 mmol), a similar procedure to Example 24 was carried out. The product obtained was purified by silica gel chromatography (methylene chloride:ethyl acetate=6:1) to obtain the title compound (32 mg, 0.094 mmol) having the following physical properties:

reactant | 2-(tert-butoxycarbonylamino)-5-methoxycarbonylindan | 0.21 mmol, 60 mg | C(C)(C)(C)OC(=O)NC1CC2=CC=C(C=C2C1)C(=O)OC | C16H21NO4
reactant | hydrochloric acid dioxane | 4N, 1.0 ml | Cl.O1CCOCC1
reactant | triethylamine | 0.63 mmol, 88 μl | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-5-methylthieno[2,3-d]pyrimidine | 0.21 mmol, 39 mg | ClC=1C2=C(N=CN1)SC=C2C | C7H5ClN2S
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | acetic acid | 3.0 ml | C(C)(=O)O | C2H4O2
product | 4-(5-methoxycarbonylindan-2-yl)amino-5-methylthieno[2,3-d]pyrimidine | 0.094 mmol, 32 mg | COC(=O)C=1C=C2CC(CC2=CC1)NC=1C2=C(N=CN1)SC=C2C | C18H17N3O2S
